US05698692
To the solution of 4,5,6,7-tetrahydrothieno[2,3-c]pyridine hydrochloride (5.2 g) in DMF (60 ml) were added di-t-butyl dicarbonate (7.11 g), triethylamine (6.58 g) and a catalytic amount of 4-dimethylaminopyridine, and the mixture was stirred at room temperature for 1 hour. After the addition of ethyl acetate (300 ml) and washed with saturated saline, the mixture was dried over anhydrous magnesium sulfate. The solvent was removed by distillation. The residue was purified by column chromatography on silica gel to give 4.67 g of 5-t-butoxycarbonyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridine from the fraction eluted with n-hexane:ethyl acetate=2:1 (yield, 88%).

reactant | 4,5,6,7-tetrahydrothieno[2,3-c]pyridine hydrochloride | 5.2 g | Cl.S1C=CC2=C1CNCC2
reactant | di-t-butyl dicarbonate | 7.11 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 6.58 g | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | 5-t-butoxycarbonyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridine | 4.67 g | C(C)(C)(C)OC(=O)C1CC2=C(CN1)SC=C2 | C12H17NO2S
